US07345067B2
To a solution of NaOEt (21% in EtOH, 215 ml, 584 mmol) were added ethyl formate (46.97 ml, 584 mmol) and then, with cooling (max. 28° C.), chloro acetic acid ethyl ester in Et2O (200 ml). The mixture was stirred at RT for 20 h and filtered after adding Et2O (200 ml). The resulting solid was dissolved in EtOH (400 ml) and after addition of 4-(trifluoromethyl)benzene-1-carbothioamide (11.98 g, 58.4 mmol) stirring to reflux was accomplished for 20 h. After filtration, the EtOH was removed under reduced pressure and extracted with CH2Cl2 (3×)/H2O. The organic phases were washed with H2O, dried (Na2SO4) and evaporated to give crude compound which was crystallized (Et2O/n-pentane) to give 12.43 g (71%) of 2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester as off-white crystals, MS: 301 (M+), MP: 98-110° C.

reactant | NaOEt | 584 mmol, 215 ml | CC[O-].[Na+]
reactant | ethyl formate | 584 mmol, 46.97 ml | C(=O)OCC | C3H6O2
reactant | chloro acetic acid ethyl ester | C(C)OC(CCl)=O | C4H7ClO2
reactant | 4-(trifluoromethyl)benzene-1-carbothioamide | 58.4 mmol, 11.98 g | FC(C1=CC=C(C=C1)C(N)=S)(F)F | C8H6F3NS
solvent | Et2O | 200 ml | CCOCC | C4H10O
product | 2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | 12.43 g, 71% | C(C)OC(=O)C1=CN=C(S1)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NO2S
